US04617316
In a manner similar to Example 1, Step A, the reaction of 10.0 g (0.06 mole) of 5-nitro-2-aminophenol with 9.8 g (0.07 mole) of 2,5-dimethoxytetrahydrofuran in 20 ml of glacial acetic acid produced 5.5 g of 5-nitro-2-(1H-pyrrol-1-yl)phenol.

reactant | 5-nitro-2-aminophenol | 0.06 mole, 10.0 g | [N+](=O)([O-])C=1C=CC(=C(C1)O)N | C6H6N2O3
reactant | 2,5-dimethoxytetrahydrofuran | 0.07 mole, 9.8 g | COC1OC(CC1)OC | C6H12O3
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 5-nitro-2-(1H-pyrrol-1-yl)phenol | 5.5 g | [N+](=O)([O-])C=1C=CC(=C(C1)O)N1C=CC=C1 | C10H8N2O3
